US08097610B2
Preparation of [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid
A mixture of [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid methyl ester (1.45 g), 2N sodium hydroxide (3.3 mL), tetrahydrofuran (15 mL) and methanol (15 mL) was stirred at room temperature for 3 hours. To the reaction solution was added water and washed with chloroform. The water layer was neutralized with 2N hydrochloric acid and extracted with chloroform. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (916 mg). Yield: 65%.

reactant | [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid methyl ester | 1.45 g | COC(CC1=CC(=CC(=C1)Cl)OCCC1(CCN(CC1)C=1SC(=CN1)Br)N1CCCC1)=O | C23H29BrClN3O3S
reactant | sodium hydroxide | 2N, 3.3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | methanol | 15 mL | CO | CH4O
solvent | water | O | H2O
product | [3-[2-[1-(5-bromothiazole-2-yl)-4-pyrrolidine-1-ylpiperidine-4-yl]ethoxy]-5-chlorophenyl]acetic acid | 916 mg, Yield: 65% | BrC1=CN=C(S1)N1CCC(CC1)(N1CCCC1)CCOC=1C=C(C=C(C1)Cl)CC(=O)O | C22H27BrClN3O3S
